US04224371
108.7 g of the syn isomer of 3-acetoxymethyl-7-[2-(2-amino-4-thiazolyl)-2-methoxyimino-acetamido]-ceph-3-eme-4-carboxylic acid containing 8% ethanol and 0.5% water were added at 0° to 2° C. under a nitrogen atmosphere to a stirred solution of 21.6 g of anhydrous sodium acetate, 25 ml of dimineralized water and 175 ml of anhydrous pure methanol and the resulting solution was stirred at 0° to 2° C. under nitrogen and was then passed through a heat insulated sterile filter. The filtrate was recovered at 0° to 2° C. under nitrogen in a sterile container and the filter was rinsed twice with 25 ml of anhydrous pure methanol. The sterile solution held at 0° to 2° C. under nitrogen under went normal precipitation over one hour with stirring under nitrogen in 500 ml of ethanol containing 2% of water at 18°-20° C. The resulting suspension was held with stirring under nitrogen for several hours and was then vacuum filtered. The recovered product was empasted successively with 100 ml and then 200 ml of ethanol containing 5% water and was then washed with 50 ml of ethanol containing 5% of water to obtain a damp product which was dried under reduced pressure at 20°-25° C. to obtain 96.5 g of the cystalline D form of the syn isomer of sodium 3-acetoxy-methyl-7-[2-(2-amino-4-thiazolyl)-2-methoxyimino-acetamido]-ceph-3-eme-4-carboxylate containing 4% of water and ≃0.4% of ethanol. The infrared spectrum showed it was the D form.

reactant | 3-acetoxymethyl-7-[2-(2-amino-4-thiazolyl)-2-methoxyimino-acetamido]-ceph-3-eme-4-carboxylic acid | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(=NOC)C=2N=C(SC2)N)=O)=O | C16H17N5O7S2
reactant | water | O | H2O
reactant | sodium acetate | 21.6 g | C(C)(=O)[O-].[Na+]
reactant | water | 25 ml | O | H2O
reactant | methanol | 175 ml | CO | CH4O
product | sodium 3-acetoxy-methyl-7-[2-(2-amino-4-thiazolyl)-2-methoxyimino-acetamido]-ceph-3-eme-4-carboxylate | 4% | C(C)(=O)OC=1C(S[C@H]2N(C1C(=O)[O-])C(C2NC(C(=NOC)C=2N=C(SC2)N)=O)=O)C.[Na+] | InChI=1S/C16H17N5O7S2.Na/c1-5-11(28-6(2)22)10(15(25)26)21-13(24)9(14(21)30-5)19-12(23)8(20-27-3)7-4-29-16(17)18-7;/h4-5,9,14H,1-3H3,(H2,17,18)(H,19,23)(H,25,26);/q;+1/p-1/t5?,9?,14-;/m1./s1
